US05166313
Diamantane was prepared from norbornadiene by a modified route based on the procedure given in Grund, T. M.; Thielecke, W.; v. R. Schleyer, P. Org. Syn. 53, 30. Anhydrous cobalt bromide was prepared in 80% yield from cobalt carbonate and HBr. Cobalt bromide was then reacted with triphenylphosphine in toluene to give bis(triphenylphosphine)cobalt bromide in 88% yield; 1.3 Kg of this catalyst was prepared in a single reaction. Reaction of norbornadiene with the cobalt catalyst gave the dimer, Binor-S, in 68% yield, and approximately 1.5 Kg of this material was prepared.

reactant | norbornadiene | C12=CC=C(CC1)C2 | C7H8
catalyst | cobalt bromide | [Co](Br)Br
product | Binor-S | 68% yield | C1C2[C@@H]3[C@H]2[C@@H]4C1[C@H]3[C@@H]5[C@H]6C7C6[C@H]4C5C7 | C14H16
